US08633189B2
To a solution of ethyl 3-(3-cyclopentyl-4-hydroxy-phenyl)propanoate (857 mg, 3.27 mmol) and triethylamine (911 μL, 6.53 mmol) in dichloromethane (5 mL) under a N2 atmosphere at 0° C. was added methyl chloroformate (463 mg, 377 μL, 4.90 mmol) dropwise. After 1 h, the reaction mixture was partitioned between dichloromethane/water, separated and the aqueous layer was extracted once more with dichloromethane. The combined organics were dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (0-30% ethyl acetate/hexanes) provided ethyl 3-(3-cyclopentyl-4-methoxycarbonyloxy-phenyl)propanoate (920 mg, 88% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.20 (d, J=1.7 Hz, 1H), 7.09-7.03 (m, 2H), 4.04 (q, J=7.1 Hz, 2H), 3.82 (s, 3H), 3.03-2.96 (m, 1H), 2.83 (t, J=7.6 Hz, 2H), 2.61 (t, J=7.6 Hz, 2H), 1.93-1.86 (m, 2H), 1.77-1.72 (m, 2H), 1.66-1.58 (m, 2H), 1.54-1.47 (m, 2H), 1.15 (t, J=7.1 Hz, 3H).

reactant | ethyl 3-(3-cyclopentyl-4-hydroxy-phenyl)propanoate | 3.27 mmol, 857 mg | C1(CCCC1)C=1C=C(C=CC1O)CCC(=O)OCC | C16H22O3
reactant | triethylamine | 6.53 mmol, 911 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 4.90 mmol, 377 μL, 463 mg | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 3-(3-cyclopentyl-4-methoxycarbonyloxy-phenyl)propanoate | 920 mg, 88% yield | C1(CCCC1)C=1C=C(C=CC1OC(=O)OC)CCC(=O)OCC | C18H24O5
